US07393851B2
Preparation of 1-{5-[4-(4-Fluoro-benzyl)-piperidine-1-carbonyl]-6-methoxy-1H-pyrrolo[2,3-b]pyridin-3-yl}-2-pyrrolidin-1-yl-ethane-1,2-dione
[4-(4-Fluoro-benzyl)-piperidin-1-yl]-(6-methoxy-1H-pyrrolo[2,3-b]pyridin-5-yl)-methanone (368 mg, 1 mmol) was dissolved in dry dichloromethane (5 mL). It was cooled in an ice-bath and oxalyl chloride (4.5 mL, 2 M solution in dichloromethane) was added. The mixture was stirred for 1 h at 0° C. and for another 4 h at room temperature. It was evaporated to dryness, redissolved in dichloromethane and treated with pyrrolidine (3 mmol). After stirring for 30 min, water was added and the product was extracted with dichloromethane (3×25 mL). The combined extracts were dried over sodium sulfate. After evaporation of the solvent, the product was purified via radial chromatography using chloroform-methanol (0-3% methanol) to yield 340 mg of the desired product. LCMS: 493, M+1.

reactant | [4-(4-Fluoro-benzyl)-piperidin-1-yl]-(6-methoxy-1H-pyrrolo[2,3-b]pyridin-5-yl)-methanone | 1 mmol, 368 mg | FC1=CC=C(CC2CCN(CC2)C(=O)C=2C=C3C(=NC2OC)NC=C3)C=C1 | C21H22FN3O2
reactant | oxalyl chloride | 2 M, 4.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pyrrolidine | 3 mmol | N1CCCC1 | C4H9N
reactant | water | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-{5-[4-(4-Fluoro-benzyl)-piperidine-1-carbonyl]-6-methoxy-1H-pyrrolo[2,3-b]pyridin-3-yl}-2-pyrrolidin-1-yl-ethane-1,2-dione | 340 mg | FC1=CC=C(CC2CCN(CC2)C(=O)C=2C=C3C(=NC2OC)NC=C3C(C(=O)N3CCCC3)=O)C=C1 | C27H29FN4O4
